US06605323B1
A solution of 100 mol of 2-fluoro-6-(4-nonylphenyl)pyridine in 500 ml of dry THF is added dropwise to a solution of 110 mmol of lithium diisopropylamide in 100 ml of dry tetrahydrofuran at −70° C. under a protective gas atmosphere. The mixture is stirred for an additional 4 h at this temperature. A solution of 200 mmol of trimethyl borate in 40 ml of dry tetrahydrofuran is then added dropwise at a temperature of less than −60° C. The reaction mixture is then slowly warmed up to room temperature, admixed with a solution of 60 ml of water and 20 ml of concentrated hydrochloric acid while cooling with ice, and stirred for another hour at room temperature. The reaction mixture is extracted with tert-butyl methyl ether, the combined organic extracts are washed with water and saturated sodium chloride solution and dried with sodium sulfate, and the solvents are removed under reduced pressure. The raw product is crystallized from n-heptane/acetone 4:1, giving 19.8 g (58%) of 2-fluoro-6-(4-nonylphenyl)pyridine-3-boronic acid.

reactant | 2-fluoro-6-(4-nonylphenyl)pyridine | 100 mol | FC1=NC(=CC=C1)C1=CC=C(C=C1)CCCCCCCCC | C20H26FN
reactant | lithium diisopropylamide | 110 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | trimethyl borate | 200 mmol | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 60 ml | O | H2O
product | 2-fluoro-6-(4-nonylphenyl)pyridine-3-boronic acid | 19.8 g, 58% | FC1=NC(=CC=C1B(O)O)C1=CC=C(C=C1)CCCCCCCCC | C20H27BFNO2
